US05808095
5-Chloro-2-methoxyphenylacetic acid, methyl ester
A flame dried three-necked 3-L round-bottomed flask, equipped with a septa, stirring bar, argon inlet, thermocouple and addition funnel capped with a septa, was vacuum/argon purged. The flask was charged with commercially available 2-methoxy phenylacetic acid (300 g, 1.81 mol) and anhydrous THF (2 L). The mixture was cooled to approximately -15° C. and stirred until the solution became homogeneous. Neat sulfuryl chloride (205 mL, 2.55 mol) was added dropwise via an additional funnel while stirring over an hour. The internal temperature was maintained below -5° C. (ranging between -15° and -5° C.). Immediately after the complete addition of sulfuryl chloride, HPLC analysis showed the reaction was complete. The reaction mixture was poured into cold water (16 L) with vigorous stirring. The resultant slurry was stirred for 3 hours and the white precipitate was collected by filtration, washed with water (2 L), air dried for about 24 h, and vacuum dried to afford 345.3 g (95% yield, 97% by HPLC) of the title compound as an off-white solid that was used without further purification in the next step.

reactant | 2-methoxy phenylacetic acid | 1.81 mol, 300 g | COC1=C(C=CC=C1)CC(=O)O | C9H10O3
reactant | THF | 2 L | C1CCOC1 | C4H8O
reactant | sulfuryl chloride | 2.55 mol, 205 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | water | 16 L | O | H2O
product | 5-Chloro-2-methoxyphenylacetic acid, methyl ester | 95% yield | ClC=1C=CC(=C(C1)CC(=O)OC)OC | C10H11ClO3
